US07838499B2
Preparation of (3R,4S,5S,6R)-2-(4-chloro-3-(4-(cyclopropoxymethyl)benzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol (Intermediate CW)
To a solution of 4-bromo-1-chloro-2-(4-(2-cyclopropoxymethyl)benzyl)benzene (0.6 g, 1.71 mmol) in anhydrous toluene/THF (6 mL, v/v=2:1) was added dropwise n-BuLi (2.5 M in hexane, 0.82 mL) at −65° C., and the mixture was stirred for 30 min at −65° C. Then a −65° C. solution of (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one (0.87 g, 1.88 mmol) in toluene (6 mL) was added dropwise over 15 min. The mixture was stirred at −65° C. for 3.5 h until starting material was consumed. The reaction was quenched with methanesulfonic acid (0.23 mL, 3.58 mmol) in methanol (6 mL), and the mixture was allowed to warm to room temperature and stirred overnight. The reaction was quenched with saturated sodium bicarbonate, the organic phase was separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were washed with saturated bicarbonate, then with water, and then with brine, and dried over sodium sulfate. Removal of the volatiles afforded a residue (0.75 g), which was used in the next step without further purification.

reactant | 4-bromo-1-chloro-2-(4-(2-cyclopropoxymethyl)benzyl)benzene | 1.71 mmol, 0.6 g | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)COC1CC1 | C17H16BrClO
reactant | n-BuLi | 2.5 M, 0.82 mL | [Li]CCCC
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one | 1.88 mmol, 0.87 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | methanesulfonic acid | 3.58 mmol, 0.23 mL | CS(=O)(=O)O | CH4O3S
solvent | toluene THF | 6 mL | C1(=CC=CC=C1)C.C1CCOC1
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 6 mL | CO | CH4O
product | (3R,4S,5S,6R)-2-(4-chloro-3-(4-(cyclopropoxymethyl)benzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | 0.75 g | ClC1=C(C=C(C=C1)C1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC)CC1=CC=C(C=C1)COC1CC1 | C24H29ClO7
